US04789396
0.27 Gram of 2-propionyl-5-[2-(4-trifluoromethylphenylthio)propyl]cyclohexane-1,3-dione was dissolved in 10 ml of ethyl acetate, and 0.08 g of ethoxyamine hydrochloride and 0.1 g of N,N-diethylaniline were added to the resulting solution which was then refluxed for 5 hours. The reaction solution was cooled to room temperature, poured into water, weakly acidified and extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid and water subsequently and dried over anhydrous magnsium sulfate. After removing ethyl acetate, the residue was purified by thin layer chromatography (eluent, hexane:ethyl acetate=5:1) to obtain 0.13 g of 2-(1-ethoxyaminopropylidene)-5-[2-(4-trifluoromethylphenylthio)propyl]cyclohexane-1,3-dione.

reactant | 2-propionyl-5-[2-(4-trifluoromethylphenylthio)propyl]cyclohexane-1,3-dione | C(CC)(=O)C1C(CC(CC1=O)CC(C)SC1=CC=C(C=C1)C(F)(F)F)=O | C19H21F3O3S
reactant | ethoxyamine hydrochloride | 0.08 g | Cl.C(C)ON
reactant | N,N-diethylaniline | 0.1 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | water | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-ethoxyaminopropylidene)-5-[2-(4-trifluoromethylphenylthio)propyl]cyclohexane-1,3-dione | 0.13 g | C(C)ONC(CC)=C1C(CC(CC1=O)CC(C)SC1=CC=C(C=C1)C(F)(F)F)=O | C21H26F3NO3S
